US04994479
A mixture of 1.6 g of sodium hydroxide (60%, oil) in 60 ml of dimethylsulfoxide was stirred at 55°~60° C. for 1 hour. After lowering to room temperature, a solution of 9 g of (4-carboxybutyl)triphenyl phosphonium bromide in 20 ml of dimethylsulfoxide was added to the mixture. After stirring at room temperature for 30 minutes, a solution of 3 g of o-nitrobenzaldehyde in 10 ml of dimethylsulfoxide was added thereto. The mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into cold diluted hydrochloric acid followed by extraction with ether. After washing with water, the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain oily 6-(o-nitrophenyl)-5-hexenic acid. This substance was added to a mixture of 20 ml of ethanol and 4 ml of conc. surfuric acid. The resulting mixture was heated under reflux for 3 hours. The reaction mixture was concentrated under reduced pressure and water was added to the residue followed by extracting with toluene. The extract was washed with water, a diluted aqueous sodium hydrogen carbonate and water, in order. After drying over anhydrous magnesium sulfate, the system was concentrated under reduced pressure. The residue was applied to silica gel column chromatography and eluted with toluene to obtain 0.73 g of ethyl 6-(o-nitrophenyl)-5-hexenate.

reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | (4-carboxybutyl)triphenyl phosphonium bromide | 9 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | o-nitrobenzaldehyde | 3 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 6-(o-nitrophenyl)-5-hexenic acid | [N+](=O)([O-])C1=C(C=CC=C1)C=CCCCC(=O)O | C12H13NO4
